US06969730B2
4-[(6-chloro-3-pyridinyl)carbonyl]morpholine
To a solution of chloronicotinoyl chloride (3.52 g, 2.00 mmol) and triethylamine (3.1 mL, 2.22 mmol) in dichloromethane (5 mL) at 0° C. was slowly added morpholine (1.75 mL, 2.00 mmol). The mixture was warmed to ambient temperature, washed with water (2×25 mL), brine (1×25 mL), dried (Na2SO4), filtered and concentrated under reduced pressure. The product was chromatographed on silica with ethyl acetate to give the titled compound (4.0 g, 88%). MS (DCI) m/z 227 (M+H)+;

reactant | chloronicotinoyl chloride | 2.00 mmol, 3.52 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | triethylamine | 2.22 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
reactant | morpholine | 2.00 mmol, 1.75 mL | N1CCOCC1 | C4H9NO
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-[(6-chloro-3-pyridinyl)carbonyl]morpholine | 4.0 g, 88% | ClC1=CC=C(C=N1)C(=O)N1CCOCC1 | C10H11ClN2O2
